US07122571B2
2-Furancarboxaldehyde-4-sulfamylphenylhydrazone
A solution of 2-furancarboxaldehyde (5 mmol) and 4-sulfamylphenylhydrazine hydrochloride is subjected to the General Procedure. The title compound is isolated as described in the general procedure.

reactant | 2-furancarboxaldehyde | 5 mmol | O1C(=CC=C1)C=O | C5H4O2
reactant | 4-sulfamylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 2-Furancarboxaldehyde-4-sulfamylphenylhydrazone | S(N)(=O)(=O)C1=CC=C(C=C1)NN=CC=1OC=CC1 | C11H11N3O3S
